US08022062B2
2,2,2-Trifluoro-N-(3-methoxy-benzyl)-acetamide:
Add trifluoroacetic anhydride (6.3 g, 30 mmol) to a solution of 3-methoxybenzylamine (3.43 g, 25 mmol) and N-methyl-morpholine (3.793 g, 37.5 mmol) in THF (80 mL) at 0° C. and stir at this temperature for 4 h. Warm to ambient temperature and stir for 12 h. Dilute with EtOAc, wash sequentially with water, 1N aqueous HCl, saturated aqueous NaHCO3 and brine. Dry the organic layer over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:3) to give the desired intermediate (5.344 g, 91%).

reactant | trifluoroacetic anhydride | 30 mmol, 6.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-methoxybenzylamine | 25 mmol, 3.43 g | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | N-methyl-morpholine | 37.5 mmol, 3.793 g | CN1CCOCC1 | C5H11NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2,2-Trifluoro-N-(3-methoxy-benzyl)-acetamide | 5.344 g, 91% | FC(C(=O)NCC1=CC(=CC=C1)OC)(F)F | C10H10F3NO2
